US04268509
To a cold solution of phosphorus pentachloride (2.5 g) in methylene chloride (60 ml) was added 2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetic acid (syn isomer) (2.16 g) at -15° C. and the mixture was stirred for 30 minutes at the same temperature. On the other hand, a mixture of 4-nitrobenzyl 7-amino-3-cephem-4-carboxylate (4.0 g) and trimethylsilylacetamide (12 g) in methylene chloride (60 ml) was warmed to make a clear solution and then cooled to -10° C. The solution was added to the above activated mixture and the mixture was stirred for 0.5 hour at 0° to 5° C. The reaction mixture was poured into cold aqueous solution (150 ml) of sodium bicarbonate (7.0 g). The organic layer was dried over magnesium sulfate and evaporated to dryness. The residue was pulverized with diethyl ether and precipitates were collected by filtration and dried to give 4-nitrobenzyl 7-[2-ethoxyimino-2 -(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-cephem-4-carboxylate (syn isomer) (5.5 g), mp. 120° to 125° C. (dec.).

reactant | phosphorus pentachloride | 2.5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)acetic acid | 2.16 g | C(C)ON=C(C(=O)O)C1=NSC(=N1)N | C6H8N4O3S
reactant | 4-nitrobenzyl 7-amino-3-cephem-4-carboxylate | 4.0 g | NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C14H13N3O5S
reactant | trimethylsilylacetamide | 12 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | sodium bicarbonate | 150 ml, 7.0 g | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 4-nitrobenzyl 7-[2-ethoxyimino-2 -(5-amino-1,2,4-thiadiazol-3-yl)acetamido]-3-cephem-4-carboxylate | 5.5 g | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)C1=NSC(=N1)N | C20H19N7O7S2
